US08609656B2
Preparation of 1-(4-Aminophenyl)-1H-imdazo[4,5-c]-pyridine-4-carbonitrile
In 100 mL of methanol, 240 mg (0.9 mmol) of 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile was dissolved, and 170 mg of 10% palladium carbon was added thereto and the mixture solution was refluxed with stirring in a hydrogen atmosphere for one hour. The palladium carbon was removed by Celite filtration and the reaction solution was concentrated under reduced pressure, and the obtained crude product was purified by a silica gel column (dichloromethane:methanol=40:1) to obtain 65 mg (30%) of a target product as a pale yellow solid.

reactant | 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.9 mmol, 240 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=2C(=NC=CC21)C#N | C13H7N5O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium carbon | 170 mg | [C].[Pd]
product | 1-(4-Aminophenyl)-1H-imdazo[4,5-c]-pyridine-4-carbonitrile | 65 mg, 30% | NC1=CC=C(C=C1)N1C=NC=2C(=NC=CC21)C#N | C13H9N5
